* C:\Users\ADMIN\Downloads\Projet\Projet_capteur\LTSpice\montage_test_capteur.asc
* Generated by LTspice 24.1.8 for Windows.
C1 Vep 0 100n
R5 Vep N004 10k
R2 Vem 0 1k
R1 Vep 0 100k
X§U1 Vep Vem +5V 0 N002 LTC1050
C4 Vem N002 1µ
R3 Vem N002 100k
R6 ADC N002 1k
C2 ADC 0 100n
C3 N004 N003 1p
V1 +5V 0 5
V3 N001 0 PULSE(0 1 0.2 0.1 0.1 20) AC 1 0
V2 N003 0 SINE(0 325 50)
X§X2 +5V N004 N001 0 capteur_graphique

* block symbol definitions
.subckt capteur_graphique Cp Cn Gp Gn
B1 Cp Cn I=V(Cp,Cn)*(10n+10n*V(Gc,Gn))
R1 Gp Gc 1k
C1 Gc Gn 200µ
.ends capteur_graphique

;.tran 20
.param G0 10n
.param G1 10n
.param R1 100k
.ac oct 100 0.1 10000
.lib LTC.lib
.backanno
.end
